US06005116
(d) 3-Hydroxy-5-(4-phenoxyphenyl)isoxazole
α,β-Dibromo-4-phenoxycinnamic acid ethyl ester (7.0 g), hydroxylamine hydrochloride (1.4 g) and sodium hydroxide (3.3 g) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 10(c) to obtain the title compound (3.4 g, 83%) as colorless crystals.

reactant | α,β-Dibromo-4-phenoxycinnamic acid ethyl ester | 7.0 g | C(C)OC(C(=C(C1=CC=C(C=C1)OC1=CC=CC=C1)Br)Br)=O | C17H14Br2O3
reactant | hydroxylamine hydrochloride | 1.4 g | Cl.NO
reactant | sodium hydroxide | 3.3 g | [OH-].[Na+]
product | 3-Hydroxy-5-(4-phenoxyphenyl)isoxazole | 3.4 g, 83% | OC1=NOC(=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C15H11NO3
